US06632919B1
Ethyl (3-oxo-2,3,-Dihydropyridazin-6-yl)-propionate
To a solution of ethyl (3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-propionate (50.0 mmol, 9.90 g) in ethanol (50 mL) was added bromine (75.0 mmol, 11.99 g). The mixture was stirred at rt for 14 h and the mixture was poored into NaHCO3 (sat. aqueous) (500 mL). The resulting mixture was extracted exhaustively with diethylether (5×500 mL). The combined organic fractions were dried over MgSO4 and evaporated in vacuo. The crude product was recrystallized from toluene to give the title compound (3.35 g, 34.1%) as colorless needles of high purity (HPLC at 260 nm). UV λmax 228 nm and 285 nm. 1H NMR (CDCl3): δ 11.62 (s br, 1H, NH), 7.18 (d, J=9.7 Hz, 1H, arom.), 7.88 (d, J=9.7 Hz, 1H, arom.), 4.11 (q, J=7.1 Hz, 2H, CH2), 2.90 (t, J=7.0 Hz, 2H, CH2), 2.64 (t, J=7.0 Hz, 2H, CH2), 1.25 (t, J=7.1 Hz, 3H, CH3). 13C NMR (CDCl3): δ 172.20, 161.50, 146.73, 134.06, 129.74, 60.45, 31.47, 25.89, 13.97. FAB+ MS: 197.10 (M+H+, calc. for C9H12N2O3+H+ 197.0926).

reactant | ethyl (3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-propionate | 50.0 mmol, 9.90 g | O=C1NN=C(CC1)C(C(=O)OCC)C | C9H14N2O3
reactant | bromine | 75.0 mmol, 11.99 g | BrBr | Br2
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | Ethyl (3-oxo-2,3,-Dihydropyridazin-6-yl)-propionate | 3.35 g, 34.1% | O=C1NN=C(C=C1)C(C(=O)OCC)C | C9H12N2O3
